US08431593B2
Step 2. Ethyl 5-[(adamantan-1-ylmethyl)carbamoyl]imidazo[1,2-a]pyridine-2-carboxylate
A mixture of N-(1-adamantylmethyl)-6-aminopyridine-2-carboxamide (19.17 g, 65.2 mmol) and ethyl bromopyruvate (9.1 mL, 65.2 mmol) in EtOH (160 mL) is heated under reflux for 20 h. After cooling to RT, the solvent is removed in vacuo. The residue is partitioned between EtOAc and saturated aqueous sodium carbonate. The organic layer is separated, and the aqueous layer is back extracted with EtOAc. The combined organic layers are washed with water and brine, dried over sodium sulfate, and concentrated. The brown residue is purified by re-crystallization from EtOAc and hexanes to give the title compound. 1H-NMR (δ, ppm, CDCl3 as internal standard): 9.03 (s, 1H), 7.82 (d, J=9.0 Hz, 1H), 7.26 (dd, J=6.9 and 9.0 Hz, 1H), 7.17 (d, J=6.9 Hz, 1H), 6.26 (m, 1H), 4.45 (q, J=6.9 Hz, 2H), 3.22 (d, J=6.6 Hz, 2H), 2.04 (m, 3H), 1.78-1.58 (m, 12H), 1.43 (t, J=7.0 Hz, 3H).

reactant | N-(1-adamantylmethyl)-6-aminopyridine-2-carboxamide | 65.2 mmol, 19.17 g | C12(CC3CC(CC(C1)C3)C2)CNC(=O)C2=NC(=CC=C2)N | C17H23N3O
reactant | ethyl bromopyruvate | 65.2 mmol, 9.1 mL | BrCC(C(=O)OCC)=O | C5H7BrO3
solvent | EtOH | 160 mL | CCO | C2H6O
product | Ethyl 5-[(adamantan-1-ylmethyl)carbamoyl]imidazo[1,2-a]pyridine-2-carboxylate | C12(CC3CC(CC(C1)C3)C2)CNC(=O)C2=CC=CC=3N2C=C(N3)C(=O)OCC | C22H27N3O3
